US05137928
Preparation of n-butyl 4-chloro-4-oxobutyrate
Excess thionyl chloride and one drop of DMF are added to monobutyl succinate. The reaction takes place with evolution of gas. The mixture is left to stir with exclusion of moisture overnight and subsequently the excess thionyl chloride is removed by distillation under atmospheric pressure. The remaining crude product is fractionally distilled under 0.05 mbar, and the pure product is obtained at about 70° C. The characterization of the product by IR spectroscopy shows bands at 1800 cm-1 (acid chloride) and 1740 cm-1 (ester) of equal intensity.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | monobutyl succinate | C(CCC(=O)[O-])(=O)OCCCC
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | n-butyl 4-chloro-4-oxobutyrate | ClC(CCC(=O)OCCCC)=O | C8H13ClO3
